US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of ethyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (27.0 g, 71 mmol) in THF (333 mL) and MeOH (166 mL) was added LiOH (5.21 g, 214 mmol) dissolved in enough water to make a 1N solution (total volume 213 mL) and the reaction was heated to 60° C. overnight. HPLC showed completion. A white precipitate was observed. The reaction was neutralized with 1N HCl and the more volatile solvents removed, leaving the water solution. 300 mL water was added the solution was acidified to pH 1 with 1 N HCl. A large amount of solids had precipitated. The resulting slurry was stirred vigorously with 100 mL CHCl3. Most of the solid had precipitated from the partitioning and the entire mix was filtered and dried over the weekend to give product. Additional less pure product was recovered from extraction of the filtrate.

reactant | ethyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 71 mmol, 27.0 g | ClC=1C=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)O)=O)C=CC1F | C18H16ClFN2O4
reactant | LiOH | 214 mmol, 5.21 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 333 mL | C1CCOC1 | C4H8O
solvent | MeOH | 166 mL | CO | CH4O
solvent | water | O | H2O
solvent | water | 300 mL | O | H2O
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid | ClC=1C=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)O)O)=O)C=CC1F | C16H12ClFN2O4
